US08138197B2
3-(1-Pyrrolidinyl)-5-(1,2,4-triazol-3-yl)benzoic acid
Aqueous 5 N sodium hydroxide solution (0.21 mL, 1.05 mmol) was added to a THF (0.7 mL)-methanol (0.7 mL) suspension of methyl 3-(1-pyrrolidinyl)-5-(1,2,4-triazol-3-yl)benzoate (95.8 mg, 0.35 mmol), and stirred at room temperature for 18 hours. 5 N hydrochloric acid (0.21 mL, 1.05 mmol) was added to the reaction mixture and concentrated under reduced pressure. 40% methanol/chloroform was added to the residue, the mixture was filtered, and the filtrate was concentrated under reduced pressure. Diethyl ether was added to the residue, the formed insoluble matter was taken out through filtration, washed and dried to obtain the title compound as a pale yellow solid.

reactant | sodium hydroxide | 1.05 mmol, 5 N, 0.21 mL | [OH-].[Na+]
reactant | THF | 0.7 mL | C1CCOC1 | C4H8O
reactant | methyl 3-(1-pyrrolidinyl)-5-(1,2,4-triazol-3-yl)benzoate | 0.35 mmol, 95.8 mg | N1(CCCC1)C=1C=C(C(=O)OC)C=C(C1)C1=NNC=N1 | C14H16N4O2
reactant | hydrochloric acid | 1.05 mmol, 5 N, 0.21 mL | Cl | ClH
solvent | methanol | 0.7 mL | CO | CH4O
product | 3-(1-Pyrrolidinyl)-5-(1,2,4-triazol-3-yl)benzoic acid | N1(CCCC1)C=1C=C(C(=O)O)C=C(C1)C1=NNC=N1 | C13H14N4O2
